US04200466
(2) Preparation of 3-carboxymethylamino-4-n-dodecylcarbamoylmethoxyphenol [Compound (81)]
To a suspension of 40 g of 3-carboethoxymethylamino-4-dodecylcarbamoylmethoxyphenol in 500 ml of methanol was added over 20 minutes a solution of 12 g of sodium hydroxide in 100 ml of water kept at below 20° C., and the mixture was stirred for 10 minutes to obtain a perfect solution. The resulting solution was poured into 2 liters of a 5% hydrochloric acid solution, whereupon pale green crystals were separated. The crystals were recrystallized from a water-methanol mixture to obtain the title compound. The yield was 32 g, and the melting point was 122°-125° C.

reactant | 3-carboethoxymethylamino-4-dodecylcarbamoylmethoxyphenol | 40 g | C(=O)(OCC)CNC=1C=C(C=CC1OCC(NCCCCCCCCCCCC)=O)O | C24H40N2O5
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-carboxymethylamino-4-n-dodecylcarbamoylmethoxyphenol | C(=O)(O)CNC=1C=C(C=CC1OCC(NCCCCCCCCCCCC)=O)O | C22H36N2O5
